US05728708
2.0 g (5.4 mmol) of N-[3-carboxy-phenyl]-4-(2-(3-hydroxy-propyl-amino)-4-pyridyl)-2-pyrimidineamine and 0.28 ml (5.4 mmol) of conc. sulfuric acid are boiled under RF in 150 ml of methanol for 24 h. After cooling to RT, the reaction mixture is concentrated to half the volume, diluted with 100 ml of ethyl acetate and extracted twice with 50 ml of buffer (pH 7) each time. The organic phase is dried (Na2SO4) and concentrated. Crystallisation (methylene chloride/methanol) gives N-[3-methoxycarbonylphenyl]-4-[2-(3-hydroxy-propyl-amino)-4-pyridyl]-2-pyrimidineamine; m.p. 162°-163°, FAB-MS: 380 (M+ +H).

reactant | N-[3-carboxy-phenyl]-4-(2-(3-hydroxy-propyl-amino)-4-pyridyl)-2-pyrimidineamine | 5.4 mmol, 2.0 g | C(=O)(O)C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)NCCCO | C19H19N5O3
reactant | sulfuric acid | 5.4 mmol, 0.28 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 150 ml | CO | CH4O
product | N-[3-methoxycarbonylphenyl]-4-[2-(3-hydroxy-propyl-amino)-4-pyridyl]-2-pyrimidineamine | COC(=O)C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)NCCCO | C20H21N5O3
